Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Back pain, cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH breast cancer s/p lumpectomy, radiation, and 
chemotherapy who presented with pleuritic upper back pain.  

Her pain started in left leg on ___ before migrating up to 
her left upper back and neck with progressive worsening. Her 
left calf pain later resolved. She assumed all of the above 
symptoms were musculoskeletal and used warm compresses but had 
no relief. She denies any prolonged bed-rest or inactivity prior 
to leg pain, but has been resting since she became symptomatic. 
Yesterday, her pain became very severe and she presented to OSH. 
She had no associated actual chest pain or dyspnea. She was seen 
at OSH where she was noted to have EKG changes with precordial T 
wave inversions and was referred to the ED.  
 
In the ED, initial vitals were: 99.1 101 165/99 16 100% RA. 
-Labs were notable for WBC 14.4 with 79.2% PMNs, BNP 374, trop
<0.01, lactate 1.8 .
-CTA chest was performed, which showed bilateral lower lobe
segmental and subsegmental pulmonary emboli, and right upper 
lobe
segmental pulmonary emboli.  
-Patient received 1L NS and was started on heparin gtt.

 
Past Medical History:
Left breast invasive ductal carcinoma, pT2, NO (stage IIA, grade
III), ER/PR and HER-2 all negative (___) s/p lumpectomy,
radiation and chemotherapy. 
Early stage right breast cancer (___) s/p lumpectomy and
radiation
Hypercholesterolemia  
Esophageal reflux  
History of impaired glucose tolerance  
Colonic polyp  
Obesity  
Osteopenia  
Hypertension  
Vitamin D Deficiency  
Ascending aorta dilatation  
 
Social History:
___
Family History:
Brother Cancer  
Father ___ heart disorder  
Mother ___ heart disorder  
Son CAD/PVD(2); CAD/PVD - Early  
 
Physical Exam:
ADMISSION
===================  
Vitals: 98.0 143/84 HR 70 RR 16 95% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple w/ 
no
lymphadenopathy.  
Lungs: Non-productive cough and pleuritic chest pain with deep
inspiration. Clear to auscultation bilaterally, no wheezes,
rales, rhonchi 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops 
Abdomen: soft, non-tender, non-distended  
Ext: Warm, well perfused, no cyanosis or edema  
Skin: Without rashes or lesions  
Neuro: Alert and oriented. Grossly intact.  
=====================
DISCHARGE
===================== 
Vitals: Tm98.9, 77-93, 118-137 / 75-83, 18, ___ ra  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple w/ 
no lymphadenopathy.  
Lungs: Non-productive cough and pleuritic chest pain with deep 
inspiration. Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops 
Abdomen: soft, non-tender, non-distended  
Ext: Warm, well perfused, no cyanosis or edema  
Skin: Without rashes or lesions  
Neuro: Alert and oriented. Grossly intact. 
 
Pertinent Results:
LABS
=====================
ADMISSION
------------
___ 02:10PM BLOOD WBC-14.4*# RBC-4.56 Hgb-12.5 Hct-38.8 
MCV-85 MCH-27.4 MCHC-32.2 RDW-15.6* RDWSD-48.0* Plt ___
___ 02:10PM BLOOD Neuts-79.2* Lymphs-12.1* Monos-7.8 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-11.42*# AbsLymp-1.75 
AbsMono-1.13* AbsEos-0.06 AbsBaso-0.03
___ 02:10PM BLOOD ___ PTT-25.7 ___
___ 02:10PM BLOOD Glucose-135* UreaN-12 Creat-0.9 Na-139 
K-3.6 Cl-100 HCO3-23 AnGap-20
___ 02:10PM BLOOD proBNP-374
___ 06:55AM BLOOD Calcium-8.8 Phos-4.4 Mg-2.1
___ 02:28PM BLOOD Lactate-1.8
---------------
DISCHARGE
---------------
___ 07:53AM BLOOD WBC-10.4* RBC-4.53 Hgb-12.5 Hct-38.9 
MCV-86 MCH-27.6 MCHC-32.1 RDW-15.8* RDWSD-48.9* Plt ___
___ 07:53AM BLOOD Glucose-89 UreaN-13 Creat-0.9 Na-141 
K-3.7 Cl-101 HCO3-24 AnGap-20
==================
IMAGING
==================
CXR (___):  
No comparison. Normal lung volumes. Moderate cardiomegaly with 
enlargement of the left atrium. Moderate elongation of the 
descending aorta. The presence of a small left pleural effusion 
cannot be excluded. No overt pulmonary edema. Minimal 
retrocardiac atelectasis. No pneumonia. Status post left 
axillary lymph node dissection.  
--------------- 
CTA (___):  
1. Bilateral lower lobe segmental and subsegmental pulmonary 
emboli, and right upper lobe segmental pulmonary emboli. No CT 
evidence of right heart strain.  
2. Dense consolidations at the bilateral lung bases may 
represent atelectasis, however a component of pulmonary 
infarction cannot be excluded.  
3. Trace left pleural effusion.  
 
Brief Hospital Course:
___ with PMH breast cancer s/p lobectomy, radiation, and 
chemotherapy who presented with pleuritic upper back pain, cough 
and was found to have pulmonary embolisms. Based on history this 
is unprovoked. She has no history to suggest travel, immobility, 
or surgery. She does have a history of breast cancer in 
remission last seen by heme/onc on ___. CT scan showed 
bilateral lower lobe segmental and subsegmental pulmonary 
emboli, and right upper lobe segmental pulmonary emboli. She was 
started on heparin gtt and was transitioned to apixaban. 
Initially metoprolol was held to allow physiologic tachycardia, 
but was restarted on discharge. On day of discharge, she 
ambulated without hypoxia or symptoms.

TRANSITIONAL ISSUES
======================
-Will need follow up hematologist/oncologist to ensure that 
there is no underlying cause of PE
-New Medication: Apixaban 10 mg BID from ___, 5 mg 
BID starting ___ (Consider dose reduction to 2.5 mg BID 
after 6 months)
-Stopped Medication: Aspirin ___ bleeding risk on apixaban)
# CODE STATUS: Full Code  
# CONTACT: ___ (___) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 10 mg PO QPM 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
5. Multivitamins W/minerals 1 TAB PO DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*12 Tablet Refills:*0 
2.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Multivitamins W/minerals 1 TAB PO DAILY  
6.  Pantoprazole 40 mg PO Q24H  
7.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
Pulmonary Embolism

Secondary Diagnoses
HTN  
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the hospital because had blood clots in 
your lungs. You were given blood thinners through the IV to 
prevent further clot formation. This medication was switched to 
a pill blood thinner which you will need to take for a minimum 
of 6 months. You should follow up with primary care doctor to 
determine how long you should take this medication. There was no 
obvious cause of the clot and you should follow up with your 
hematologist/oncologist to make sure there is not a reason for 
the clot. 

It was a pleasure taking care of you. We wish you the best!
-Your ___ Care Team

TRANSITIONAL ISSUES
======================
-If you travel, you should always stretch and move your legs 
frequently to prevent clot formation. 
-Now that you are on blood thinners, you should always go to the 
emergency department if you fall, hit your head, or have some 
type of accident causing bodily harm.
-Follow up with your hematologist/oncologist and primary care 
doctor
-___: Apixaban 10 mg BID from ___, 5 mg 
BID starting ___
-Stopped Medication: Aspirin
 
Followup Instructions:
___